US07947686B2
Step 1. Preparation of 3-amino-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-2-carboxylic acid ethyl ester hydrochloride [(XI), Ra=Rb=H, Q=ethyl]
To a solution of 3-amino-6,7-dihydro-4H-pyrazolo[4,3-c]pyridine-2,5-dicarboxylic acid 5-tert-butyl ester 2-ethyl ester (40 g, 128.9 mmol) in dichloromethane (1 L), 4 N HCl in dioxane (161 mL, 644.5 mmol) was added dropwise. The mixture was stirred at room temperature for 4 hours. The solid was filtered, washed with dichloromethane and diethylether. After drying in vacuo the title compound was obtained as white solid (36.2 g, 99%).

reactant | 3-amino-6,7-dihydro-4H-pyrazolo[4,3-c]pyridine-2,5-dicarboxylic acid 5-tert-butyl ester 2-ethyl ester | 128.9 mmol, 40 g | CCOC(=O)N1N=C2C(CN(CC2)C(=O)OC(C)(C)C)=C1N | C14H22N4O4
reactant | dioxane | 644.5 mmol, 161 mL | O1CCOCC1 | C4H8O2
reactant | dichloromethane | 1 L | ClCCl | CH2Cl2
solvent | HCl | 4 N | Cl | ClH
product | 3-amino-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridine-2-carboxylic acid ethyl ester hydrochloride | 36.2 g, 99% | Cl.C(C)OC(=O)N1N=C2C(CNCC2)=C1N | InChI=1S/C9H14N4O2.ClH/c1-2-15-9(14)13-8(10)6-5-11-4-3-7(6)12-13;/h11H,2-5,10H2,1H3;1H
